US07799773B2
1-{6-[(3-Cyclobutyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)oxy]-3-pyridinyl}-2-pyrrolidinone (E217)
A mixture of 3-cyclobutyl-7-[(5-iodo-2-pyridinyl)oxy]-2,3,4,5-tetrahydro-1H-3-benzazepine (E207) (252 mg, 0.6 mmol), 2-pyrrolidinone (153 mg, 1.8 mmol), potassium carbonate (83 mg, 0.6 mmol), copper powder (126 mg, 1.2 mmol) were heated in a microwave reactor at 150° C. for 1 minute. The reaction mixture was diluted with 2-pyrrolidinone (1 g, 12 mmol) and heated for a further 20 minutes at 200° C. The reaction mixture was cooled and applied to a SCX ion exchange cartridge (Varian bond-elute, 10 g) and washed with methanol and then a mixture of 0.880 ammonia/methanol. The combined basic fractions were concentrated in vacuo and the resulting residue purified by column chromatography eluting with a mixture of 0.880 ammonia:methanol:dichloromethane (1:9:90) to afford the title compound (E217). MS (ES+) m/e 378 [M+H]+.

reactant | 3-cyclobutyl-7-[(5-iodo-2-pyridinyl)oxy]-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.6 mmol, 252 mg | C1(CCC1)N1CCC2=C(CC1)C=CC(=C2)OC2=NC=C(C=C2)I | C19H21IN2O
reactant | 2-pyrrolidinone | 1.8 mmol, 153 mg | N1C(CCC1)=O | C4H7NO
reactant | potassium carbonate | 0.6 mmol, 83 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-pyrrolidinone | 12 mmol, 1 g | N1C(CCC1)=O | C4H7NO
catalyst | copper | 1.2 mmol, 126 mg | [Cu] | Cu
product | 1-{6-[(3-Cyclobutyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)oxy]-3-pyridinyl}-2-pyrrolidinone | C1(CCC1)N1CCC2=C(CC1)C=CC(=C2)OC2=CC=C(C=N2)N2C(CCC2)=O | C23H27N3O2
